US06284755B1
Step A: Preparation of 3-(3-methoxy-phenyl)-1-methyl-azepan-2-one
To 1.6 M n-BuLi in hexane (31.3 mL, 50 mmol) at 0° C. was added a solution of 2,2,6,6-tetramethyl piperidine (8.43 mL, 50 mmol) in anh. THF (100 mL) over 5 min. N-methylcaprolactam (6.41 mL, 50 mmol) in anhydrous THF (20 mL) was added. After stirring the reaction mixture for 10 min, a further portion of 1.6M n-BuLi in hexane (31.3 mL, 50 mmol) was added, the mixture was stirred for 10 min, and 2-chloroanisole (6.34 mL, 50 mmol) was added. After stirring for 30 min under Ar, the reaction was quenched with H2O, stirred for 30 min, concentrated in vacuo, diluted with EtOAc and washed with 5N HCl (100 mL) and brine. The organic layer was dried (MgSO4), concentrated and purified using SiO2 chromatography (10% EtOAc/CH2Cl2) to give the title compound.

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 50 mmol, 31.3 mL | CCCCCC | C6H14
reactant | 2,2,6,6-tetramethyl piperidine | 50 mmol, 8.43 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | N-methylcaprolactam | 50 mmol, 6.41 mL | CN1C(CCCCC1)=O | C7H13NO
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 50 mmol, 31.3 mL | CCCCCC | C6H14
reactant | 2-chloroanisole | 50 mmol, 6.34 mL | ClC1=C(C=CC=C1)OC | C7H7ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-methoxy-phenyl)-1-methyl-azepan-2-one | COC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C14H19NO2
